US05618814
2-chloro-8-(4-methoxy-benzylamino)-4-morpholino-pyrimido[5,4-d]pyrimidine Melting point: 156°-158° C.
2-chloro-8-(5-acetylamino-1,2,3,4 -tetrahydroisoquinolin-2-yl)-4-morpholino-pyrimido [5,4-d]pyrimidine Rf value: 0.55 (silica gel; methylene chloride/methanol=9:1)

reactant | 2-chloro-8-(5-acetylamino-1,2,3,4 -tetrahydroisoquinolin-2-yl)-4-morpholino-pyrimido [5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)N2CC1=CC=CC(=C1CC2)NC(C)=O)N2CCOCC2 | C21H22ClN7O2
reactant | methylene chloride methanol | C(Cl)Cl.CO
product | 2-chloro-8-(4-methoxy-benzylamino)-4-morpholino-pyrimido[5,4-d]pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)NCC2=CC=C(C=C2)OC)N2CCOCC2 | C18H19ClN6O2
